US04745116
A solution of ethyl 4-amino-2-ethoxycarbonylamino-6-ethyl-3-methyl-benzoate (20 mg) in concentrated sulphuric acid (3 ml) was stirred at room temperature for 4 hrs. The solution was added dropwise to an ice-cold stirred mixture of ethyl acetate and saturated sodium bicarbonate solution. After neutralization, the mixture was extracted with ethyl acetate. The organic extract was dried over magnesium sulphate and evaporated to give a solid. This material is further purified by thick layer chromatography (25% ethyl acetate: pet,. ether 30-60) to yield 7-amino-2-ethoxy-5-ethyl-8-methyl-4H-3,1-benzoxazin-4-one (10 mg). IR (CHCl3): 3500, 3420, 1740, 1650, 1610, 1565 cm-1. H--NMR (CDCl3): 1.20 (t, 3H, CH3), 1.40 (t, 3H, CH3), 2.20 (s, 3H, CH3 --Ar), 3.05 (q, 2H, CH2Ar), 4.50 (q, 2H, CH2O), 6.50 (s, 1H, ArH).

reactant | ethyl 4-amino-2-ethoxycarbonylamino-6-ethyl-3-methyl-benzoate | 20 mg | NC1=C(C(=C(C(=O)OCC)C(=C1)CC)NC(=O)OCC)C | C15H22N2O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | sulphuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
product | 7-amino-2-ethoxy-5-ethyl-8-methyl-4H-3,1-benzoxazin-4-one | 10 mg | NC1=C(C2=C(C(OC(=N2)OCC)=O)C(=C1)CC)C | C13H16N2O3
